US05731309
4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine
To a solution of 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)butylamine (0.30 g) in methanol (3 mL) was added 3,5-bis(trifluoromethyl)benzaldehyde (0.088 mL) and the mixture cooled to 0° C. To this stirred mixture was sequentially added acetic acid (0.046 mL) and a solution of sodium cyanoborohydride (0.50 g) in methanol (1 mL). The mixture was allowed to slowly warm to room temperature overnight and was diluted with dichloromethane (5 mL), water (5 mL), and hydrochloric acid (1N, 5 mL). The layers were separated, and the aqueous layer was extracted three times with dichloromethane (10 mL). The acidic aqueous layer was made basic with aqueous sodium hydroxide (1N, 5 mL) and then extracted with 5:1 dichloromethane:methanol (3×10 mL). The combined organic layers were washed (brine), dried, filtered and evaporated to afford an oil which was purified by chromatography, with dichloromethane:methanol (40:1) as eluent. Evaporation of the appropriate fractions afforded a partial hydrate of the title compound as a white solid (0.154 g); mp 66°-68° C.; NMR: 7.82 (s,3), 7.75 (s,1), 7.50 (m,2), 7.35-5.15 (m,6), 2.75 (m,1), 2.65-2.55 (m,2), 2.32-1.95 (m,6), 1.85 (s,3), 1.95-1.55 (m,6); MS: m/z=660(M+1, 100%); Rf =0.51 (10:1, dichloromethane:methanol). Analysis for C32H33Cl2F6N3O.0.25 H2O: Calculated: C, 57.79; H, 5.08; N, 6.32; Found: C, 57.68; H, 5.07; N, 6.30.

reactant | 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)butylamine | 0.30 g | C(C)(=O)NC1(CCN(CC1)CCC(CN)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C23H29Cl2N3O
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 0.088 mL | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | acetic acid | 0.046 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.50 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
solvent | hydrochloric acid | 1N, 5 mL | Cl | ClH
product | 4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | 0.154 g | C(C)(=O)NC1(CCN(CC1)C(CC(CN)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C32H33Cl2F6N3O
